US07109211B2
Step 2. Preparation of 2-amino-5-(trifluoromethoxy)benzyl alcohol.
The 2-amino-5-trifluoromethoxybenzoic acid (2.0 g, 9.0 mmol) in tetrahydrofuran (20 mL) was added dropwise to borane methyl sulfide complex (1.5 mL, 15.0 mmol) in tetrahydrofuran (5 mL). The reaction was refluxed overnight and allowed to cool. A solution of 30% aqueous hydrogen peroxide (0.5 mL), 2.5 N sodium hydroxide (0.5 mL) and water (10 mL) was added drop-wise and the reaction stirred 0.5 hours. After diluting with diethyl ether (50 mL), the organic layer was washed with 0.1 M aqueous sodium meta-bisulfite (2×10 mL) and 2.5 N aqueous sodium hydroxide (2×10 mL). The organic layer was diluted further with hexanes (50 mL) and washed with brine (2×20 mL), dried over anhydrous Na2SO4, and concentrated in vacuo leaving an amber oil (1.9 g) which solidified. The solid was recrystallized from ethyl acetate-hexanes to afford the 2-amino-5-trifluoromethoxybenzyl alcohol as a light amber solid (1.44 g, 77%): mp 75.9–77.6° C. 1H NMR (CDCl3, 300 MHz) 7.00 (m, 2H), 6.65 (d, 1H, J=8.0 Hz), 4.05 (s, 2H), 3.25 (brs, 3H). ESHRMS m/z 208.0592 (M+H+, Calc'd 208.0585). Anal. Calc'd for C8H8NO2F3: C, 46.39; H, 3.89; N, 6.76. Found: C, 46.61; H, 3.79; N, 6.71.

reactant | 2-amino-5-trifluoromethoxybenzoic acid | 9.0 mmol, 2.0 g | NC1=C(C(=O)O)C=C(C=C1)OC(F)(F)F | C8H6F3NO3
reactant | hydrogen peroxide | 0.5 mL | OO | H2O2
reactant | sodium hydroxide | 2.5 N, 0.5 mL | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-amino-5-(trifluoromethoxy)benzyl alcohol | 1.9 g | NC1=C(CO)C=C(C=C1)OC(F)(F)F | C8H8F3NO2
